US09145414B2
Diisopropylethylamine (0.53 ml) was added to a solution of ethyl 5-chloro-3-(methylthio)-1,2,4-triazine-6-carboxylate (234 mg) and 6-aminoquinoline (173 mg) in acetonitrile (3 ml), and the reaction solution was stirred in a microwave reactor at 100° C. for 1 hour. The solvent was evaporated under vacuum, and then the residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain ethyl 3-(methylthio)-5-(quinolin-6-ylamino)-1,2,4-triazine-6-carboxylate as a white solid.

reactant | Diisopropylethylamine | 0.53 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl 5-chloro-3-(methylthio)-1,2,4-triazine-6-carboxylate | 234 mg | ClC=1N=C(N=NC1C(=O)OCC)SC | C7H8ClN3O2S
reactant | 6-aminoquinoline | 173 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | ethyl 3-(methylthio)-5-(quinolin-6-ylamino)-1,2,4-triazine-6-carboxylate | CSC=1N=NC(=C(N1)NC=1C=C2C=CC=NC2=CC1)C(=O)OCC | C16H15N5O2S
